US04906666
(b) 1-Bromo-3-[3-(1-hydroxyhexyl)-phenoxy]-propane
19.4 g. (0.1 mole) 3-(1-hydroxyhexyl)-phenol and 80.4 g. (0.4 mole) dibromopropane are dissolved in 150 ml. methyl ethyl ketone and heated to 80° C. 15.2 g. Potassium carbonate are added thereto in the course of 1 hour. The reaction mixture is then stirred for 8 hours at 80° C., the residue is filtered off and the solvent is evaporated, together with excess dibromopropane. The residue is taken up in ethyl acetate, extracted twice with aqueous sodium hydroxide solution, washed neutral, dried and evaporated. There are obtained 25.8 g. (82% of theory) of the title compound in the form of an oil.

reactant | 3-(1-hydroxyhexyl)-phenol | 0.1 mole | OC(CCCCC)C=1C=C(C=CC1)O | C12H18O2
reactant | dibromopropane | 0.4 mole | BrC(C)(C)Br | C3H6Br2
reactant | Potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | methyl ethyl ketone | C(C)C(=O)C | C4H8O
product | 1-Bromo-3-[3-(1-hydroxyhexyl)-phenoxy]-propane | BrCCCOC1=CC(=CC=C1)C(CCCCC)O | C15H23BrO2
